US06451821B1
a solution of 0.63 g of N-[(1RS)-1-hydroxymethyl-2-(5-thiazolyl)ethyl]acetamide in 7.86 cm3 of 6N hydrochloric acid is heated to a temperature in the region of 110° C. for 3 hours. The reaction mixture is filtered, concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C., taken up in isopropyl ether, concentrated under the above conditions, taken up in 10 cm3 of isopropyl ether, filtered and dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C. 0.56 g of (2RS)-2-amino-3-(5-thiazolyl)-1-propanol hydrochloride is obtained in the form of a beige-colored solid melting at 192° C. [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 3.21 (d, J=7 Hz: 2H); 3.35 (mt: 1H); 3.48 (dd, J=11.5 and 5.5 Hz: 1H); 3.61 (dd, J=11.5 and 4 Hz: 1H); 7.83 (broad s: 1H); 8.19 (unresolved complex: 3H); 9.10 (broad s: 1H)].

reactant | N-[(1RS)-1-hydroxymethyl-2-(5-thiazolyl)ethyl]acetamide | 0.63 g | OCC(CC1=CN=CS1)NC(C)=O | C8H12N2O2S
reactant | hydrochloric acid | 6N, 7.86 cm3 | Cl | ClH
product | (2RS)-2-amino-3-(5-thiazolyl)-1-propanol hydrochloride | 0.56 g | Cl.NC(CO)CC1=CN=CS1 | InChI=1S/C6H10N2OS.ClH/c7-5(3-9)1-6-2-8-4-10-6;/h2,4-5,9H,1,3,7H2;1H
